US06372920B1
700 mg (3.4 mmol) (−)-5-hydroxy-N-n-propyl-2-aminotetralin made by the process described in U.S. Pat. No. 5,382,596, 4.8 g (17 mmol) 2-(2-thienyl)ethanol toluenesulfonate, 216 mg (2 mmol) sodium carbonate (0.6 molar ratio Na2CO3/amine starting material), and 40 mL xylenes (mixture, Aldrich Chemical Co.) were mixed and brought to reflux. The reaction was halted at 24 hours, and worked up in the usual manner well known to those skilled in the art without chromatographic purification to yield the product, (−)-5-hydroxy-2-[N-n-propyl-N-2-(2-thienyl)ethylamino]tetralin, that was converted to its hydrochloride salt form, with a yield of 1 g (84%).

reactant | (−)-5-hydroxy-N-n-propyl-2-aminotetralin | 3.4 mmol, 700 mg | OC1=C2CCC(CC2=CC=C1)NCCC | C13H19NO
reactant | 2-(2-thienyl)ethanol toluenesulfonate | 17 mmol, 4.8 g | C=1(C(=CC=CC1)S(=O)(=O)OCCC=1SC=CC1)C | C13H14O3S2
reactant | sodium carbonate | 2 mmol, 0.6 molar, 216 mg | C([O-])([O-])=O.[Na+].[Na+]
product | (−)-5-hydroxy-2-[N-n-propyl-N-2-(2-thienyl)ethylamino]tetralin | OC1=C2CCC(CC2=CC=C1)N(CCC=1SC=CC1)CCC | C19H25NOS
